* D:\LTSpices\LTSpices\RLC bandpass and notch\RLC bandpass and notch.asc
V1 N014 0 AC 1
R1 N016 0 1k
L1 N015 N014 47m
C1 N016 N015 220n
V2 N001 0 AC 1
L2 0 N002 47m
C2 N002 0 220n
R2 N002 N001 1k
V3 N003 0 AC 1
L3 N003 N004 47m
C3 N004 0 220n
R3 0 N004 1k
V4 N005 0 AC 1
L4 N006 0 47m
C4 N006 N005 220n
R4 0 N006 1k
V5 N011 0 AC 1
R5 N013 N012 1k
L5 N012 N011 47m
C5 0 N013 220n
V6 N008 0 AC 1
R6 N010 N009 1k
L6 0 N010 47m
C6 N008 N009 220n
V7 N007 0 AC 1
L7 N007 0 47m
C7 0 N007 220n
R7 0 N007 1k
* RLC Bandpass and Notch Filters: Examine Q-factor and selectivity.
.ac dec 100 1 10g
.backanno
.end
